US09376449B2
A mixture of 3-[(7-chloro-2,3-dihydro-1-benzofuran-5-yl)hydrazinylidene]piperidin-2-one (a mixture of E and Z isomers) (3.66 g) and formic acid (65.4 mL) was stirred at 100° C. for 1 hour. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 95:5) to obtain an orange solid. This solid was washed with ethyl acetate to obtain a mixture (1.74 g) of 4-chloro-1,2,6,8,9,10-hexahydro-7H-furo[3,2-e]pyrido[3,4-b]indol-7-one and 10-chloro-2,3,5,7,8,9-hexahydro-6H-furo[2,3-f]pyrido[3,4-b]indol-6-one as an orange solid.

reactant | 3-[(7-chloro-2,3-dihydro-1-benzofuran-5-yl)hydrazinylidene]piperidin-2-one | ClC1=CC(=CC=2CCOC21)NN=C2C(NCCC2)=O | C13H14ClN3O2
reactant | formic acid | 65.4 mL | C(=O)O | CH2O2
product | 4-chloro-1,2,6,8,9,10-hexahydro-7H-furo[3,2-e]pyrido[3,4-b]indol-7-one | 1.74 g | ClC1=C2C(=C3C4=C(NC3=C1)C(NCC4)=O)CCO2 | C13H11ClN2O2
